US03952031
c. 2α,3α-Epoxy-5α-pregn-16-en-20-one
5α-Pregna-2,16-dien-20-one (3.0 g.) in chloroform (50 ml.) was treated with m-chloroperbenzoic acid (85%, 2.0 g.). The solution was stirred at room temperature overnight, diluted with more chloroform (50 ml.), washed with dilute potassium bicarbonate solution and with water, dried over sodium sulphate and evaporated to an oil which crystallised on standing. Recrystallisation from ethyl acetate/petrol gave title compound (2.75 g.) as colourless plates, m.p. 145°-149° [α]D + 74.5°, λmax. 238 nm (ε 8970).

reactant | 5α-Pregna-2,16-dien-20-one | 3.0 g | CC(C1=CC[C@H]2[C@@H]3CC[C@H]4CC=CC[C@]4(C)[C@H]3CC[C@]12C)=O | C21H30O
reactant | m-chloroperbenzoic acid | 2.0 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 2α,3α-Epoxy-5α-pregn-16-en-20-one | 2.75 g | O1[C@H]2[C@@H]1C[C@@H]1CC[C@H]3[C@@H]4CC=C(C(C)=O)[C@]4(CC[C@@H]3[C@]1(C2)C)C | C21H30O2
